US06069157
To a solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(furan-3-yl)pyrazole (0.5 g) in dimethylformamide (15 m) and water (5 ml) was added sodium dithionite (0.112 g) and disodium hydrogen phosphate (0.067 g). The mixture placed in a 400 ml Parr vessel, which was evacuated, then charged with trifluoromethylbromide gas to 20 psi. The mixture was shaken and heated at 50° C., for 2.5 hours, then left at room temperature for 16 hours. The vessel Mwas then evacuated, then charged with trifluoromethylbromide to 40 psi, then shaken and heated to 50° C. for a further 7 hours, then left at room temperature for 16 hours. Further sodium dithionite (0.120 g) and disodium hydrogen phosphate (0.080 g) was added, the vessel evacuated, then charged with trifluoromethylbromide to 40 psi, then shaken and heated to 50° C. as before for 9 hours, then left at room temperature for 48 hours. Further sodium dithionite (0.240 g) and disodium hydrogen phosphate (0.160 g) were added, the vessel was evacuated, then charged w-ith trifluoromethylbromide to 45 psi, then shaken and heated to 50° C. as before for a further 9 hours. The mixture was filtered and then poured into ether (100 ml) and water (100 ml). The organic layer was separated, washed twice with water (50 ml), dried (Na2SO4), and evaporated. The residue was purified by column chromatography on silica gel (25 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-trifluoromethylfuran-3-yl)pyrazole as a white solid, m.p. 155-7° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(furan-3-yl)pyrazole | 0.5 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=COC=C1 | C15H7Cl2F3N4O
reactant | sodium dithionite | 0.112 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | disodium hydrogen phosphate | 0.067 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-trifluoromethylfuran-3-yl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=C(OC=C1)C(F)(F)F | C16H6Cl2F6N4O
